US07601846B2
2-Furan-2-yl-imidazo[2,1-b]benzothiazole hydrobromide salt (3)
The title compound is prepared from 2-Bromo-1-furan-2-yl-ethanone and 2-aminobenzothiazole using method B in 30% yield: mp>250° C. (dec); 1H-NMR (DMSO-d6) 6.63 (s, 1H), 6.78 (s, 1H), 7.48 (t, 1H), 7.60 (t, 1H), 7.77 (s, 1H), 8.09 (d, 1H), 8.13 (d, 1H), 8.68 (s, 1H); Anal. (C13H9BrN2OS ⅔ H2O) C, H, N.

reactant | 2-Bromo-1-furan-2-yl-ethanone | BrCC(=O)C=1OC=CC1 | C6H5BrO2
reactant | 2-aminobenzothiazole | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
product | 2-Furan-2-yl-imidazo[2,1-b]benzothiazole hydrobromide salt | 30% yield | Br.O1C(=CC=C1)C=1N=C2SC3=C(N2C1)C=CC=C3 | InChI=1S/C13H8N2OS.BrH/c1-2-6-12-10(4-1)15-8-9(14-13(15)17-12)11-5-3-7-16-11;/h1-8H;1H
